US06881733B1
3-(5-Fluorobenzofur-7-yl)pyrrolidine hydrochloride
1-Benzyl-3-(5-fluorobenzofur-7-yl)pyrrolidine was debenzylated with 1-chloroethyl chloroformate and converted to the free amine, essentially as described in EXAMPLE 3.

reactant | 1-Benzyl-3-(5-fluorobenzofur-7-yl)pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=CC=2C=COC21)F | C19H18FNO
reactant | 1-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
product | 3-(5-Fluorobenzofur-7-yl)pyrrolidine hydrochloride | Cl.FC=1C=C(C2=C(C=CO2)C1)C1CNCC1 | InChI=1S/C12H12FNO.ClH/c13-10-5-8-2-4-15-12(8)11(6-10)9-1-3-14-7-9;/h2,4-6,9,14H,1,3,7H2;1H
